US06335342B1
Preparation of 3-(1H-pyrrolo[2,3-b]pyridin-3-yl)-2-phenyl-2-propenoic acid
A mixture of phenylacetic acid (0.0376 mol., 5.1 g) and 1H-pyrrolo[2,3-b]pyridine-3-carbaldehyde (0.0376 mol., 5.5 g) in acetic anhydride (0.1881 mol., 17.7 ml) and Et3N (0.0376 mol., 5.2 ml) was stirred at 100° C., for 6 hrs. The obtained solution was cooled to 50° C., quenched with conc. hydrochloric acid (10 ml) and extracted with EtOAc. The organic phase was extracted with 1 N NaOH. 3-(1H-Pyrrolo[2,3-b]pyridin-3-yl) -2-phenyl-2-propenoic acid was then precipitated from the aqueous layer with conc. hydrochloric acid with ice-cooling. Filtration and recrystallization from isopropyl alcohol of the crude product afforded 4,4 g of the desired compound as a white solid (44%), m.p. >230° C.

reactant | phenylacetic acid | 0.0376 mol, 5.1 g | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | 1H-pyrrolo[2,3-b]pyridine-3-carbaldehyde | 0.0376 mol, 5.5 g | N1C=C(C=2C1=NC=CC2)C=O | C8H6N2O
reactant | acetic anhydride | 0.1881 mol, 17.7 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | Et3N | 0.0376 mol, 5.2 ml | CCN(CC)CC | C6H15N
product | 3-(1H-pyrrolo[2,3-b]pyridin-3-yl)-2-phenyl-2-propenoic acid | 4,4 g, 44% | N1C=C(C=2C1=NC=CC2)C=C(C(=O)O)C2=CC=CC=C2 | C16H12N2O2
